### PR TITLE
defn: Pseudofunctor bicategories and the Grothendieck construction as a lax colimit

### PR DESCRIPTION
**Pull request by aathn**
# Description

Proves that the (contravariant) Grothendieck construction of a pseudofunctor `F : Pseudofunctor (Locally-discrete (I ^op)) (Cat _ _)` is the lax colimit of `F` (see [nlab](https://ncatlab.org/nlab/show/Grothendieck+construction#AsALaxColimit); note that the *co*variant construction is the *op*lax colimit and vice versa).

This required adding a lot of bicategorical definitions, including composition of lax functors, lax transformations, and modifications.  I defined the Grothendieck construction by way of the canonical displayed category associated with `F`, and also proved some properties about the latter.  I have tried to separate the PR into a series of meaningful commits with somewhat descriptive messages.

## Checklist

Before submitting a merge request, please check the items below:

- [X] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [X] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [X] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/612)
##### New pages

  * [Cat.Bi.Functor.IndexedCategory](https://preview.1lab.dev/612/Cat.Bi.Functor.IndexedCategory.html) (+508, -0)
  * [Cat.Bi.Duality](https://preview.1lab.dev/612/Cat.Bi.Duality.html) (+346, -0)
  * [Cat.Bi.Functor.Base](https://preview.1lab.dev/612/Cat.Bi.Functor.Base.html) (+310, -0)
  * [Cat.Bi.Diagram.Colimit.IndexedCategory](https://preview.1lab.dev/612/Cat.Bi.Diagram.Colimit.IndexedCategory.html) (+286, -0)
  * [Cat.Bi.Instances.Functor](https://preview.1lab.dev/612/Cat.Bi.Instances.Functor.html) (+273, -0)
  * [Cat.Bi.Diagram.Colimit](https://preview.1lab.dev/612/Cat.Bi.Diagram.Colimit.html) (+214, -0)
  * [Cat.Bi.Functor.Transformation](https://preview.1lab.dev/612/Cat.Bi.Functor.Transformation.html) (+212, -0)
  * [Cat.Bi.Functor.Constant](https://preview.1lab.dev/612/Cat.Bi.Functor.Constant.html) (+158, -0)
  * [Cat.Bi.Equivalence](https://preview.1lab.dev/612/Cat.Bi.Equivalence.html) (+156, -0)
  * [Cat.Bi.Functor.Modification](https://preview.1lab.dev/612/Cat.Bi.Functor.Modification.html) (+135, -0)
  * [Cat.Bi.Functor.Hom](https://preview.1lab.dev/612/Cat.Bi.Functor.Hom.html) (+92, -0)
##### Changed pages

  * [Cat.Bi.Diagram.Adjunction](https://preview.1lab.dev/612/Cat.Bi.Diagram.Adjunction.html) (+83, -13)
  * [Cat.Bi.Base](https://preview.1lab.dev/612/Cat.Bi.Base.html) (+65, -24)
  * [Cat.Bi.Instances.Terminal](https://preview.1lab.dev/612/Cat.Bi.Instances.Terminal.html) (+66, -14)
  * [Cat.Displayed.Total](https://preview.1lab.dev/612/Cat.Displayed.Total.html) (+52, -4)

File: src/Cat/Bi/Functor/Base.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Functor/Base.lagda.md:1]: how about `Cat.Bi.Functor.Lax`?

File: src/Cat/Bi/Functor/Constant.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Functor/Constant.lagda.md:1]: this is in `Lax-functor` but it defines a `Pseudo`functor - `Cat.Bi.Functor.Constant`?

File: src/Cat/Bi/Functor/Hom.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Functor/Hom.lagda.md:1]: idem, `Cat.Bi.Functor.Hom`?

File: src/Cat/Bi/Functor/IndexedCategory.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Functor/IndexedCategory.lagda.md:1]: the mixed casing is sending me here. I guess `Cat.Bi.Functor.IndexedCategory`?

File: src/Cat/Bi/Functor/Transformation.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Functor/Transformation.lagda.md:1]: i think i made up the word "transfor", and i regret doing that, so `Cat.Bi.Functor.Transformation`? `Cat.Bi.Functor.Naturality` by analogy? `Cat.Bi.Transformation.Base`?

Comment (plt-amy) [reply src/Cat/Bi/Functor/Transformation.lagda.md:1]: and then since we're here we might as well call the records `_=>ₗ_` and `_=>ₚ_` directly. sorry, i realise that's not exactly related to your changes.

File: src/Cat/Bi/Lax-functor/Lax-transfor.lagda.md [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+      α← _ ∘ α.σ a ▶ (β.σ a ▶ F.υ→ ∘ ρ→ _ ∘ λ← _) ∘ α→ _ ∘ ρ→ _ ◀ β.σ a ∘ λ← _ ◀ β.σ a ∘ α← _
+        ≡⟨ bicat! C ⟩
+      (α.σ a ⊗ β.σ a) ▶ F.υ→ ∘ ρ→ (α.σ a ⊗ β.σ a) ∘ λ← (α.σ a ⊗ β.σ a)
+        ∎
+```
+</details>
+
+<!--
+```agda
+  {-# DISPLAY ∘lx.lx f g = f ∘lx g #-}
```
Comment (plt-amy) [inline src/Cat/Bi/Lax-functor/Lax-transfor.lagda.md]: this being in a parametrised module isn't gonna fire right

File: src/Cat/Bi/Lax-functor/Modification.lagda.md [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+    is-prop→pathp
+      (λ i → CH.Hom-set _ _
+        (ν→ (q i) f ∘ G.₁ f ▶ path x i) (path y i ◀ F.₁ f ∘ ν→ (p i) f))
+      (a .is-natural)
+      (b .is-natural) i
+
+  Mod-path : {α β : F =>ₗ G} {a b : Modification α β}
+           → ((x : _) → a .Γ x ≡ b .Γ x)
+           → a ≡ b
+  Mod-path = Mod-pathp refl refl
```
Comment (plt-amy) [inline src/Cat/Bi/Lax-functor/Modification.lagda.md]: this either, you can always use the `ext` instance.

File: src/Cat/Bi/Lax-functor/Modification.lagda.md [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+```
+
+Before proceeding to horizontal composition, we take a moment to note
+that modifications, consisting of families of 2-cells (which form a
+set), also themselves form a set.
+
+```agda
+  opaque
+    Mod-is-set : {α β : F =>ₗ G} → is-set (Modification α β)
+    Mod-is-set = hlevel 2
```
Comment (plt-amy) [inline src/Cat/Bi/Lax-functor/Modification.lagda.md]: not really any reason to have this

File: src/Cat/Bi/Duality.lagda.md [hunk 4]
```diff
@@ -0,0 +1,343 @@
...
+## Opposite bicategories {defines="opposite-bicategory"}
+
+Inverting the 1-cells of a bicategory $\bicat{C}$ gives an effect
+similar to taking the opposite of a category, and can be used to express
+contravariance in lax functors, for example.  We will refer to this as
+the **opposite bicategory** $\bicat{C}\op$.
+
+```agda
+  infixl 60 _^op
+  {-# TERMINATING #-}
```
Comment (plt-amy) [inline src/Cat/Bi/Duality.lagda.md]: let's not. i think you can fix this by specifying the functors in the signatures of the `make-natural-iso`s so they don't mention the fields of `_^op` (i.e., use `Flip compose` instead of `_^op .Pb.compose`, which is what agda is doing and getting confused by)

File: src/Cat/Bi/Duality.lagda.md [hunk 5]
```diff
@@ -0,0 +1,343 @@
...
+make their order match what the naturality square of of the associator
+expects.
+</summary>
+```agda
+    ni .make-natural-iso.natural _ _ _ =
+         CH.car (CH.cdr (ap (C._◀ _) (compose.rlmap _ _)) ∙ compose.rlmap _ _)
+      ∙∙ sym (α←nat _ _ _)
+      ∙∙ CH.cdr (CH.cdr (ap (_ C.▶_) (compose.lrmap _ _)) ∙ compose.lrmap _ _)
+```
+</details>
```
Comment (plt-amy) [inline src/Cat/Bi/Duality.lagda.md:121]: please leave an empty line between block-level elements like this:

````suggestion

<details>
<summary>
To verify the naturality, we must shuffle some whiskerings around to
make their order match what the naturality square of of the associator
expects.
</summary>

```agda
    ni .make-natural-iso.natural _ _ _ =
         CH.car (CH.cdr (ap (C._◀ _) (compose.rlmap _ _)) ∙ compose.rlmap _ _)
      ∙∙ sym (α←nat _ _ _)
      ∙∙ CH.cdr (CH.cdr (ap (_ C.▶_) (compose.lrmap _ _)) ∙ compose.lrmap _ _)
```

</details>
````

File: src/Cat/Bi/Duality.lagda.md [hunk 6]
```diff
@@ -0,0 +1,343 @@
...
+    ni .make-natural-iso.inv           = α→
+    ni .make-natural-iso.eta∘inv _     = C.α≅ .invl
+    ni .make-natural-iso.inv∘eta _     = C.α≅ .invr
+```
+
+<details>
+<summary>
+To verify the naturality of the associator, we must again shuffle some
+whiskerings.
+</summary>
```
Comment (plt-amy) [inline src/Cat/Bi/Duality.lagda.md:192]: spacing here too

File: src/Cat/Bi/Duality.lagda.md [hunk 7]
```diff
@@ -0,0 +1,343 @@
...
+opposite direction, as follows.  We refer to these as **oplax
+transformations**.
+
+```agda
+module _ {B : Prebicategory o h ℓ} {C : Prebicategory o' h' ℓ'} where
+  Oplax-transfor : Lax-functor (B ^op) (C ^op) → Lax-functor (B ^op) (C ^op) → Type _
+  Oplax-transfor F G = Lax-transfor G F
+
+  _=>ₒ_ = Oplax-transfor
+```
```
Comment (plt-amy) [inline src/Cat/Bi/Duality.lagda.md:334]: idem re. "transfor" here, let's just say `F =>ₒ G = G =>ₗ F`?

File: src/Cat/Bi/Equivalence.lagda.md [hunk 8]
```diff
@@ -0,0 +1,154 @@
...
+In addition, we want the specified 2-cell isomorphisms to be compatible
+with the coherence data of the bicategory.  Considering our prototypical
+bicategory $\Cat$, we recall that an [[equivalence of categories]] is
+given by a pair of functors $F,G$ with natural isomorphisms $\eta : \Id
+\To G F$ and $\epsilon : F G \To \Id$, such that $\eta$ and $\epsilon$
+satisfy the triangle identities of an [[adjunction]].[^2]  Generalizing
+this, we get the definition of **equivalence** in a bicategory.
+
+[^1]: In a [[univalent category]], this intuition is also technically precise.
+[^2]: As [we have shown](Cat.Functor.Equivalence.Path.html), this notion also characterizes paths between univalent categories.
```
Comment (plt-amy) [inline src/Cat/Bi/Equivalence.lagda.md]:
```suggestion
[^2]: 
    As [we have shown](Cat.Functor.Equivalence.Path.html), this notion
    also characterizes paths between univalent categories.
```

File: src/Cat/Instances/Product/Duality.lagda.md [hunk 9]
```diff
@@ -51,7 +51,24 @@ This means, in particular, that it is an adjoint equivalence:
...
+```agda
 ×^op← : Functor (C ^op ×ᶜ D ^op) ((C ×ᶜ D)^op)
-×^op← = is-equivalence.F⁻¹ ×^op-is-equiv
+×^op← .F₀ x = x
+×^op← .F₁ f = f
+×^op← .F-id = refl
+×^op← .F-∘ f g = refl
+
+private
+  ×^op←-is-inverse : ×^op← ≡ is-equivalence.F⁻¹ ×^op-is-equiv
```
Comment (plt-amy) [inline src/Cat/Instances/Product/Duality.lagda.md]: did this actually get used? paths of functors are kind of iffy, i would prefer if it was a natural isomorphism.

File: src/Cat/Bi/Instances/Functor.lagda.md
Comment (plt-amy) [inline src/Cat/Bi/Instances/Functor.lagda.md:1]: `Cat.Bi.Instances.Functor`?

File: src/Cat/Bi/Diagram/Colimit.lagda.md [hunk 10]
```diff
@@ -0,0 +1,490 @@
...
+```agda
+  univ-cocone .naturator .η f = nat-unidl-to (F.ιᶠ-base-change f)
+```
+
+<details>
+<summary>
+Verifying that this data satisfies the required naturality and
+compatibility requirements is tedious but straightforward in principle,
+so we elide the details.
+</summary>
```
Comment (plt-amy) [inline src/Cat/Bi/Diagram/Colimit.lagda.md]: ditto re. block-level spacing

**Review by plt-amy — CHANGES_REQUESTED** [review]
okay i have like round one

File: src/Cat/Bi/Duality.lagda.md (hunk 5 above)
Comment (aathn) [reply src/Cat/Bi/Duality.lagda.md:121]: Fixed!

File: src/Cat/Bi/Functor/Base.lagda.md
Comment (aathn) [reply src/Cat/Bi/Functor/Base.lagda.md:1]: I changed it to `Cat.Bi.Functor.Base` now, since it has both lax and pseudofunctor composition

File: src/Cat/Bi/Functor/Transformation.lagda.md
Comment (aathn) [reply src/Cat/Bi/Functor/Transformation.lagda.md:1]: I changed it now.  Actually, ncatlab has the term [transfor](https://ncatlab.org/nlab/show/transfor) with a related meaning, so I thought it was taken from there.

Comment (aathn) [reply src/Cat/Bi/Functor/Transformation.lagda.md:1]: As for the module name I chose `Cat.Bi.Functor.Transformation`. The analogy to `Cat.Functor.Naturality` is not so strong (that module mainly deals with natural isomorphisms) and I preferred not to make another subfolder given that I thought transformations are related closely enough to functors.

File: src/Cat/Bi/Duality.lagda.md (hunk 4 above)
Comment (aathn) [reply src/Cat/Bi/Duality.lagda.md]: Fixed now.  It turned out that it wasn't even necessary here (I could swear that it was when I wrote it though :sweat_smile:).  For the record, `Cat.Bi.Instances.Discrete` also has a `TERMINATING`, which I was too lazy to fix now since it's not directly related to the PR (and that one does seem to require specifying the types).

File: src/Cat/Bi/Lax-functor/Modification.lagda.md (hunk 2 above)
Comment (aathn) [reply src/Cat/Bi/Lax-functor/Modification.lagda.md]: I removed this now, and moved the H-Level and ext instances into `Cat.Bi.Base` so that they don't have to be imported separately

File: src/Cat/Instances/Product/Duality.lagda.md (hunk 9 above)
Comment (aathn) [reply src/Cat/Instances/Product/Duality.lagda.md]: So what happened is that before the bifunctor refactor I needed `×^op←` when defining the co-bicategory, but the existing one was defined as `is-equivalence.F⁻¹ ×^op-is-equiv` (where `×^op-is-equiv` was derived from a precat-iso) which gave a bunch of unreduced transports. So I changed it to a direct definition and thought I should at least give a proof that they are the same.  But after the bifunctor refactor I'm not using it anymore.

Now I rewrote this to show the equivalence directly.  I could also revert the changes entirely since they are not really related to the PR anymore.

File: src/Cat/Bi/Functor/Transformation.lagda.md
Comment (plt-amy) [reply src/Cat/Bi/Functor/Transformation.lagda.md:1]: Yeah that could've been it, my bad for not writing down the source. (I checked "2-Dimensional Categories" and it wasn't there). New name seems good to me.

File: src/Cat/Bi/Duality.lagda.md (hunk 4 above)
Comment (plt-amy) [reply src/Cat/Bi/Duality.lagda.md]: yeah, I can handle that one in a separate PR. just thinking to avoid introducing more sins to be cleaned up later

File: src/Cat/Bi/Functor/Base.lagda.md [hunk 11]
```diff
@@ -0,0 +1,319 @@
...
+    → Uncurry C.compose F∘ (P₁ {B} {C} F× P₁ {A} {B}) ≅ⁿ P₁ F∘ Uncurry B.compose
+  compositor-ni = to-natural-iso ni where
+    ni : make-natural-iso _ _
+    ni .make-natural-iso.eta       = γ→
+    ni .make-natural-iso.inv       = γ←
+    ni .make-natural-iso.eta∘inv _ =
+      Cr.is-invertible.inverses (compositor-inv _) .invl
+    ni .make-natural-iso.inv∘eta _ =
+      Cr.is-invertible.inverses (compositor-inv _) .invr
+    ni .make-natural-iso.natural _ _ _ = sym $ γ→nat _ _
```
Comment (plt-amy) [inline src/Cat/Bi/Functor/Base.lagda.md:95]: it might be a good idea to open `make-natural-iso` in `Pf-reasoning` to shorten both this and `▶-comp` below?

File: src/Cat/Bi/Functor/Hom.lagda.md [hunk 12]
```diff
@@ -0,0 +1,92 @@
...
+      ∙∙ cdr (◀-▶-comm.from .is-natural _ _ _) ∙∙ ◀.pulll refl
+
+    lf : Lax-functor C (Cat h ℓ)
+    lf .Lf.P₀            = Hom X
+    lf .Lf.P₁            = compose
+    lf .Lf.compositor    = compositor
+    lf .Lf.unitor        = unitor-l.to
+    lf .Lf.hexagon f g h = ext λ _ → bicat! C
+    lf .Lf.right-unit f  = ext λ _ → bicat! C
+    lf .Lf.left-unit f   = ext λ _ → bicat! C
```
Comment (plt-amy) [inline src/Cat/Bi/Functor/Hom.lagda.md:82]: wow 🤩

File: src/Cat/Bi/Diagram/Colimit.lagda.md [hunk 13]
```diff
@@ -0,0 +1,214 @@
...
+
+The primary difference in dealing with bicategorical colimits compared
+to their 1-categorical counterparts is that commutativity requirements
+are relaxed to 2-cell isomorphisms.  Bicategorical colimits are also
+more expressive in that the diagram can specify whether commutativity
+conditions should hold up to isomorphism or merely a directed
+transformation. For example, in a 1-category, given two parallel
+morphisms
+
+~~~{.quiver}
```
Comment (plt-amy) [inline src/Cat/Bi/Diagram/Colimit.lagda.md]:
```suggestion
~~~{.quiver .attach-around}
```

(removes the space around this diagram to make it look like part of the paragraph in the rendered page)

File: src/Cat/Bi/Diagram/Colimit.lagda.md [hunk 14]
```diff
@@ -0,0 +1,214 @@
...
+	\arrow["{{F(f)}}"', from=2-1, to=2-2]
+	\arrow["{{\phi_j}}"', from=2-2, to=1-2]
+	\arrow["{\small\nu_f}", Rightarrow, from=0, to=2-2, shorten <= 0.2em]
+\end{tikzcd}\]
+~~~
+
+For each object $i$ in the diagram, $\phi_i : F(i) \to X$ gives a leg of
+the cocone, and for any morphism $f : i \to j$, we have a 2-cell
+isomorphism $\nu_f : \phi_i \cong \phi_j F(f)$ in place of the usual
+commutativity requirement for cocones.
```
Comment (plt-amy) [inline src/Cat/Bi/Diagram/Colimit.lagda.md]:
```suggestion
For each object $i$ in the diagram, the map $\phi_i : F(i) \to X$ gives
a leg of the cocone, and for any morphism $f : i \to j$, we have an
invertible 2-cell $\nu_f : \phi_i \cong \phi_j F(f)$ in place of the
usual commutativity requirement for cocones.
```

File: src/Cat/Bi/Diagram/Colimit.lagda.md [hunk 15]
```diff
@@ -0,0 +1,214 @@
...
+mostly boil down to automated bicategory reasoning.
+</summary>
+
+```agda
+    module _ {X Y : Ob} where
+      hom→cocone-nat
+        :  preaction (Cat _ _) (hom→cocone₀ Y)
+        F∘ Flip (Lax.compose _ _) F∘ Const-pseudoₒ.Const₁
+        ≅ⁿ postaction (Cat _ _) (hom→cocone₀ X) F∘ compose
+      hom→cocone-nat = to-natural-iso ni where
```
Comment (plt-amy) [inline src/Cat/Bi/Diagram/Colimit.lagda.md:182]: consider `open make-natural-iso` here too

File: src/Cat/Bi/Diagram/Colimit.lagda.md [hunk 16]
```diff
@@ -0,0 +1,214 @@
...
+        ni .make-natural-iso.natural g h α           = ext λ _ _ → bicat! C
+
+    hom→cocone : Hom-from-bi C L .lax =>ₚ lax-cocones-at .lax
+    hom→cocone .lax .σ                = hom→cocone₀
+    hom→cocone .lax .naturator        = hom→cocone-nat .to
+    hom→cocone .lax .ν-compositor f g = ext λ _ _ → bicat! C
+    hom→cocone .lax .ν-unitor         = ext λ _ _ → bicat! C
+    hom→cocone .naturator-inv f       =
+      Cr.iso→invertible Cat[ _ , _ ] (isoⁿ→iso hom→cocone-nat f)
+
```
Comment (plt-amy) [inline src/Cat/Bi/Diagram/Colimit.lagda.md]:
```suggestion
```

File: src/Cat/Bi/Instances/Functor.lagda.md [hunk 17]
```diff
@@ -0,0 +1,272 @@
...
+```
+
+<!--
+```agda
+  private
+    module C  = Br C
+    module CH = C.Hom
+  open Make-bifunctor
+  open Modification
+  open _=>ₗ_
```
Comment (plt-amy) [inline src/Cat/Bi/Instances/Functor.lagda.md:125]: consider `open make-natural-iso` too?

File: src/Cat/Bi/Duality.lagda.md [hunk 18]
```diff
@@ -0,0 +1,345 @@
...
+  _^op .Pb.id      = id
+  _^op .Pb.compose = Flip compose
+```
+
+The left unitor of $\bicat{C}\op$ is given by the right unitor of
+$\bicat{C}$, and vice versa.
+
+```agda
+  _^op .Pb.unitor-l = to-natural-iso ni where
+    ni : make-natural-iso _ _
```
Comment (plt-amy) [inline src/Cat/Bi/Duality.lagda.md:80]: consider `open make-natural-iso`?

**Review by plt-amy — CHANGES_REQUESTED** [review]
i just have some style quibbles, this is otherwise great work and very well-written!

File: src/Cat/Bi/Base.lagda.md [hunk 19]
```diff
@@ -711,3 +705,48 @@ diagrams **in** bicategories, which are (mercifully) limited to 2-cells.
...
+      (λ i → C.Hom.Hom-set _ _
+        (ν→ (q i) f C.∘ G.₁ f C.▶ path x i) (path y i C.◀ F.₁ f C.∘ ν→ (p i) f))
+      (a .is-natural)
+      (b .is-natural) i
+
+  _Γᵈ_ : {α α' β β' : F =>ₗ G} {p : α ≡ α'} {q : β ≡ β'}
+       → {a : Modification α β} {b : Modification α' β'}
+       → PathP (λ i → Modification (p i) (q i)) a b
+       → ∀ x → PathP _ (a .Γ x) (b .Γ x)
+  p Γᵈ x = apd (λ i e → e .Γ x) p
```
Comment (plt-amy) [inline src/Cat/Bi/Base.lagda.md]:
```suggestion
  Mod-pathp 
    : {α α' β β' : F =>ₗ G} (p : α ≡ α') (q : β ≡ β')
    → {a : Modification α β} {b : Modification α' β'}
    → (∀ x → PathP _ (a .Γ x) (b .Γ x))
    → PathP (λ i → Modification (p i) (q i)) a b
  Mod-pathp p q path i .Γ x                            = path x i
  Mod-pathp p q {a} {b} path i .is-natural {x} {y} {f} =
    is-prop→pathp
      (λ i → C.Hom.Hom-set _ _
        (ν→ (q i) f C.∘ G.₁ f C.▶ path x i) (path y i C.◀ F.₁ f C.∘ ν→ (p i) f))
      (a .is-natural)
      (b .is-natural) i

  _Γᵈ_ 
    : {α α' β β' : F =>ₗ G} {p : α ≡ α'} {q : β ≡ β'}
    → {a : Modification α β} {b : Modification α' β'}
    → PathP (λ i → Modification (p i) (q i)) a b
    → ∀ x → PathP _ (a .Γ x) (b .Γ x)
  p Γᵈ x = apd (λ i e → e .Γ x) p
```

**Review by plt-amy — CHANGES_REQUESTED** [review]
One last style point, sorry..

File: src/Cat/Bi/Base.lagda.md (hunk 19 above)
Comment (aathn) [reply src/Cat/Bi/Base.lagda.md]: No reason to be sorry, thanks for your patience and thorough reviews!  Fixed now :smiley:

**Review by plt-amy — APPROVED** [review]
This is fantastic work, thank you very much for the contribution *and* for sticking around with the review "process".
